US08067621B2
Step 4: 3-(2-Benzyloxy-ethoxymethyl)-4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman
3-(2-Benzyloxy-ethoxymethyl)-4-(4-chloro-phenylsulfanyl)-5,8-difluoro-chroman (0.42 g, 0.88 mmole) was dissolved in 15 ml DCM and MCPBA (77%, 0.6 g, 2.6 mmole) was added. The reaction was stirred at room temperature for 30 minutes. 0.5 g sodium thiosulfate in 50 ml water and 50 ml EtOAc were added. The organic layer washed with 1N NaOH solution (50 ml), brine (50 ml), dried over sodium sulfate and concentrated. The product was purified by column (EtOAc/hexane from 0/100 to 50/50 in 45 minutes). Yield: 0.40 g, 89%. 1H NMR (CDCl3 400 MHz δ 7.73 (d, J=8.8 Hz, 2H), 7.4 (d, J=8.1 Hz, 2H), 7.25-7.37 (m, 5H), 7.02 (m, 1H), 6.42 (m, 1H), 4.90 (dd, J=11.7 and 2.9 Hz, 1H), 4.63 (s, 1H), 4.50 (s, 2H), 4.38 (t, J=11.0, 1H), 3.45-3.62 (m, 5H), 3.30 (t, J=9.5 Hz, 1H), 3.13 (m, 1H).

reactant | 3-(2-Benzyloxy-ethoxymethyl)-4-(4-chloro-phenylsulfanyl)-5,8-difluoro-chroman | 0.88 mmole, 0.42 g | C(C1=CC=CC=C1)OCCOCC1COC2=C(C=CC(=C2C1SC1=CC=C(C=C1)Cl)F)F | C25H23ClF2O3S
reactant | MCPBA | 2.6 mmole, 0.6 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | 0.5 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-Benzyloxy-ethoxymethyl)-4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman | C(C1=CC=CC=C1)OCCOCC1COC2=C(C=CC(=C2C1S(=O)(=O)C1=CC=C(C=C1)Cl)F)F | C25H23ClF2O5S
